US06187802B1
Bromine (0.52 ml) was added dropwise over 20 minutes at ambient temperature to a stirred solution of 1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one (3 g) in ether (50 ml). After the addition was complete and the bromine colour had dissipated, the mixture was stirred at ambient temperature for a further 1 hour then it was washed with water (30 ml), saturated aqueous sodium hydrogen carbonate solution (2×30 ml) and water (30 ml), dried (MgSO4), and the solvent removed in vacuo to give 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one as an oil which was used without purification.

reactant | Bromine | 0.52 ml | BrBr | Br2
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one | 3 g | ClC1=CC=C(C=C1)C1(CCC1)C(CCC1=CC=CC=C1)=O | C19H19ClO
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one | BrC(C(=O)C1(CCC1)C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C19H18BrClO
